US04695573
1,2,3,4-Tetrahydro-9-(4-trifluoromethylbenzylamino)acridin-1-ol
In 100 ml of dry THF was dissolved 2.49 g of 3,4-dihydro-9-(4-trifluoromethylbenzylamino)acridin-1(2H)-one. The mechanically stirred solution was cooled under nitrogen to 10° C. and 3.4 ml of 1M LiAlH4 in THF was added dropwise over 10 minutes. After 1/2 hour of stirring, the reaction was complete. It was neutralized with 1 ml of saturated ammonium chloride solution and the resulting salts were filtered. The filtrate was evaporated to a solid which was recrystallized from 1:1 dichloromethane/pentane to yield 1.91 g of solid, mp 174°-176° C.

reactant | 3,4-dihydro-9-(4-trifluoromethylbenzylamino)acridin-1(2H)-one | 2.49 g | FC(C1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=C1)(F)F | C21H17F3N2O
reactant | LiAlH4 | 1M, 3.4 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,2,3,4-Tetrahydro-9-(4-trifluoromethylbenzylamino)acridin-1-ol | 1.91 g | FC(C1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=C1)(F)F | C21H19F3N2O
